US08471005B2
2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (100.0 mg, 0.0003480 mol), N,N-Diisopropylethylamine (0.0909 mL, 0.000522 mol) and 4-(3-Morpholin-4-yl-piperidin-1-yl)-phenylamine (0.182 g, 0.000696 mol) were dissolved in 1-Methoxy-2-propanol (0.99 mL, 0.010 mol) and the reaction was irradiated at 300 watts, 180° C. for 40 minutes or until HPLC showed consumption of starting material. The reaction mixture was then reduced en vacuo and the product was isolated and purified by Gilson prep HPLC to afford 61.16 mg of [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(3-morpholin-4-yl-piperidin-1-yl)-phenyl]-amine as a lyophilized powder. (M+H)=486.3. 1H NMR (400 MHz, DMSO, d6) δ 9.20 (m, 1H), 8.92 (s, 1H), 7.84 (dd, 1H, J=1.67, 5.97 Hz), 7.61 (d, 2H, J=9.00 Hz), 7.45 (m, 1H), 7.21 (d, 1H, J=8.00 Hz), 7.15 (m, 1H), 6.91 (m, 4H), 4.33 (m, 2H), 3.77 (s, 3H), 3.74 (m, 2H), 3.42 (m, 3H), 2.90 (m, 2H), 2.67 (m, 2H), 2.13 (m, 2H), 1.75 (m, 2H), 1.61 (m, 2H).

reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.0003480 mol, 100.0 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | N,N-Diisopropylethylamine | 0.000522 mol, 0.0909 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(3-Morpholin-4-yl-piperidin-1-yl)-phenylamine | 0.000696 mol, 0.182 g | N1(CCOCC1)C1CN(CCC1)C1=CC=C(C=C1)N | C15H23N3O
reactant | 1-Methoxy-2-propanol | 0.010 mol, 0.99 mL | COCC(C)O | C4H10O2
product | [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(3-morpholin-4-yl-piperidin-1-yl)-phenyl]-amine | 61.16 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CC(CCC2)N2CCOCC2 | C28H32N6O2
